US06927214B1
6,7-Dichloro-2-isopropyl-3-(5-methylsulfanyl-1,3,4-thiadiazol-2-ylsulfanyl)-quinoxaline
To a solution of 2,6,7-trichloro-3-isopropylquinoxaline (69 mg, 0.25 mmol) in DMF (4 ml) was added potassium fluoride 40% wt on alumina (109 mg, 0.75 mmol) followed by addition of 2-mercapto-5-methylsulfanyl-1,3,4-thiadiazole (44 mg, 0.26 mmol). The reaction was stirred overnight at room temperature. The product was purified by flash column chromatography using ethyl acetate:hexanes 1:20 to afford the title compound.

reactant | 2,6,7-trichloro-3-isopropylquinoxaline | 0.25 mmol, 69 mg | ClC1=NC2=CC(=C(C=C2N=C1C(C)C)Cl)Cl | C11H9Cl3N2
reactant | potassium fluoride | [F-].[K+]
reactant | 2-mercapto-5-methylsulfanyl-1,3,4-thiadiazole | 0.26 mmol, 44 mg | SC=1SC(=NN1)SC | C3H4N2S3
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 6,7-Dichloro-2-isopropyl-3-(5-methylsulfanyl-1,3,4-thiadiazol-2-ylsulfanyl)-quinoxaline | ClC=1C=C2N=C(C(=NC2=CC1Cl)C(C)C)SC=1SC(=NN1)SC | C14H12Cl2N4S3
